US06159901
Production of 4-methoxy-6-[3-(trifluoromethoxy)phenoxy] picolinic acid hydrazide (compound No. II-7)
4-methoxy-6-[3-(trifluoromethoxy)phenoxy] picolinic acid methyl ester (0.74 g, 0.00216 mol) was dissolved in methanol (about 10 ml), and then mixed with hydrazine monohydrate (1.08 g, 0.00216×10 mol). The resultant mixture was refluxed for about 3 hours. The obtained reaction solution was concentrated and dissolved in ethyl acetate, and then distributed in ethyl acetate-saturated sodium bicarbonate water. The organic phase separated from the solution was washed with saturated brine, dried with anhydrous sodium sulfate and then concentrated, thereby obtaining an aimed product.

reactant | 4-methoxy-6-[3-(trifluoromethoxy)phenoxy] picolinic acid methyl ester | 0.00216 mol, 0.74 g | COC(C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)OC(F)(F)F)=O | C15H12F3NO5
reactant | hydrazine monohydrate | 10 mol, 1.08 g | O.NN
solvent | methanol | about 10 ml | CO | CH4O
product | 4-methoxy-6-[3-(trifluoromethoxy)phenoxy] picolinic acid hydrazide | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)OC(F)(F)F)C(=O)NN | C14H12F3N3O4
